US08124766B2
A mixture of 4-chloro-benzo[b]thiophene-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide (50 mg, 0.13 mmol), CH2Cl2 (5 mL), and TEA (40 mg, 0.39 mmol) was stirred at room temperature. 2,2-Dimethylsuccinic anhydride (36 mg, 0.28 mmol) was added slowly. The reaction was stirred at room temperature for 0.5 hr then concentrated and the residue was taken up into 50 mL of EtOAc and washed with 50 mL of saturated ammonium chloride, brine and dried over anhydrous sodium sulfate. The solvent was removed and the product was triturated with diethyl ether and hexanes followed by filtration, to afford the product 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid (58 mg, 89% yield). LCMS for C24H25ClN4O4S calcd. (m/e) 500, observed 499 (M−H).

reactant | 4-chloro-benzo[b]thiophene-2-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide | 0.13 mmol, 50 mg | N1(CCNCC1)C1=CC=C(C=N1)NC(=O)C1=CC2=C(S1)C=CC=C2Cl | C18H17ClN4OS
reactant | 2,2-Dimethylsuccinic anhydride | 0.28 mmol, 36 mg | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid | 58 mg, 89% yield | ClC1=CC=CC=2SC(=CC21)C(=O)NC=2C=CC(=NC2)N2CCN(CC2)C(CC(C(=O)O)(C)C)=O | C24H25ClN4O4S
